US04098791
Methyl 1-hexahydroazepinecarboximidate
In the manner given in Example 2, 1-hexahydroazepinecarbonitrile is treated with sodium methoxide in methanol to give methyl 1-hexahydrazepinecarboximidate.

reactant | 1-hexahydroazepinecarbonitrile | N1(CCCCCC1)C#N | C7H12N2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | Methyl 1-hexahydroazepinecarboximidate | N1(CCCCCC1)C(OC)=N | C8H16N2O
